US05418233
3-Chloro-6-(4-cyanophenyl)-pyridazine
3-chloro-6-(4-cyanophenyl)-4-(ethoxycarbonyl)-pyridazine After the reaction solution has been stirred into water the aqueous phase is extracted with ethyl acetate. The organic phase is dried, evaporated down and the residue is chromatographed. Rf value: 0.37 (silica gel; cyclohexane/ethyl acetate=2:1)

reactant | 3-chloro-6-(4-cyanophenyl)-4-(ethoxycarbonyl)-pyridazine | ClC=1N=NC(=CC1C(=O)OCC)C1=CC=C(C=C1)C#N | C14H10ClN3O2
solvent | water | O | H2O
product | 3-Chloro-6-(4-cyanophenyl)-pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C#N | C11H6ClN3
